US05604229
2-(2,3-Dihydroxypropyl)-2-(N-t-butoxycarbonylamino)-1,3-propanediol bis-t-butyldimethylsilyl ether (4.3 g) was dissolved in 600 ml of 1,4-dioxane and a solution of 3.8 g of meta-sodium periodate in 90 ml of water was added thereto. The mixture was stirred at room temperature for 3 hours. The reaction mixture was concentrated and hexane was added thereto. After washing with water, the resultant mixture was dried and concentrated to give 3.76 g of colorless, oily 2-(N-t-butoxycarbonylamino)-2-(2-formylethyl)-1,3-propanediol bis-t-butyldimethylsilyl ether.

reactant | 2-(2,3-Dihydroxypropyl)-2-(N-t-butoxycarbonylamino)-1,3-propanediol bis-t-butyldimethylsilyl ether | 4.3 g | [Si](C)(C)(C(C)(C)C)OCC(CO[Si](C)(C)C(C)(C)C)(NC(=O)OC(C)(C)C)CC(CO)O | C23H51NO6Si2
solvent | 1,4-dioxane | 600 ml | O1CCOCC1 | C4H8O2
solvent | water | 90 ml | O | H2O
product | 2-(N-t-butoxycarbonylamino)-2-(2-formylethyl)-1,3-propanediol bis-t-butyldimethylsilyl ether | [Si](C)(C)(C(C)(C)C)OCC(CO[Si](C)(C)C(C)(C)C)(CCC=O)NC(=O)OC(C)(C)C | C23H49NO5Si2
